### PR TITLE
shorter proof of muleA

### PR DESCRIPTION
**Pull request by Tragicus**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -1962,53 +1962,28 @@ Qed.
...
-      by rewrite (negbTE (mulf_neq0 _ _)) ?gt_eqF // mulr_gt0// lte_fin z0.
-    by rewrite lt_eqF ?nmulr_llt0// ltNge nmulr_lle0// (ltW y0).
-  case: (ltrgtP 0 z) => [z0/=|z0|<-{z}]; last by rewrite mulr0 eqxx.
-    by rewrite lt_eqF ?nmulr_rlt0// ltNge nmulr_rle0// (ltW z0).
-  by rewrite gt_eqF nmulr_lgt0// y0.
-- by case: ltrgtP; rewrite ?eqxx// ?mul0e//= ltry.
-- by case: ltrgtP.
-- by case: ltrgtP => //= [z0|z0]; rewrite ?eqxx// ltry.
-- by case: ltrgtP; rewrite ?eqxx// ltry.
+move=>x y z.
```
Comment (proux01) [inline theories/constructive_ereal.v:1965]: We always put a spae after `=>` (and before, except when preceded by a tactic keyword)
```suggestion
move=> x y z.
```

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -1962,53 +1962,28 @@ Qed.
...
+wlog: x y z / 0 < x => [h|x0].
+   case/boolP: (x == 0)=>[/eqP->|]; first by rewrite 3!mul0e.
+   move=>/Order.TotalTheory.lt_total=>/orP[x0|]; last by apply h.
+   by apply (inv_inj oppeK); rewrite -!mulNe; apply h; rewrite oppe_gt0.
```
Comment (proux01) [inline theories/constructive_ereal.v:1969]: I'd rather use `ltgtP` to distinguish the three cases
```suggestion
wlog: x y z / 0 < x => [h | x0].
  have [x0 | | ->] := ltgtP x 0; [ | exact: h | by rewrite !mul0e].
  by apply: oppe_inj; rewrite -!mulNe h ?oppe_gt0.
```
(this requires adding `oppe_inj`, for instance above just after `oppeK`:
```Coq
Lemma oppe_inj : @injective (\bar R) _ -%E.
Proof. exact: inv_inj oppeK. Qed.
```
)

File: theories/constructive_ereal.v [hunk 3]
```diff
@@ -1962,53 +1962,28 @@ Qed.
...
+wlog: x y z x0 / 0 < y => [h|y0].
+   case/boolP: (y == 0)=>[/eqP->|]; first by rewrite mul0e mule0 mul0e.
+   move=>/Order.TotalTheory.lt_total=>/orP[y0|]; last by apply h.
+   by apply (inv_inj oppeK); rewrite -muleN -mulNe -mulNe -muleN; apply h=>//;
+      rewrite oppe_gt0.
```
Comment (proux01) [inline theories/constructive_ereal.v:1974]: similarly
```suggestion
wlog: x y z x0 / 0 < y => [h | y0].
  have [y0 | | ->] := ltgtP y 0; [ | exact: h | by rewrite !(mul0e, mule0)].
  by apply: oppe_inj; rewrite -muleN -2!mulNe -muleN h ?oppe_gt0.
```

File: theories/constructive_ereal.v [hunk 4]
```diff
@@ -1962,53 +1962,28 @@ Qed.
...
+wlog: x y z x0 y0 / 0 < z => [h|z0].
+   case/boolP: (z == 0)=>[/eqP->|]; first by rewrite 3!mule0.
+   move=>/Order.TotalTheory.lt_total=>/orP[z0|]; last by apply h.
+   by apply (inv_inj oppeK); rewrite -!muleN ; apply h=>//; rewrite oppe_gt0.
```
Comment (proux01) [inline theories/constructive_ereal.v:1978]:
```suggestion
wlog: x y z x0 y0 / 0 < z => [h | z0].
  have [z0 | | ->] := ltgtP z 0; [ | exact: h | by rewrite !mule0].
  by apply: oppe_inj; rewrite -!muleN h ?oppe_gt0.
```

File: theories/constructive_ereal.v [hunk 5]
```diff
@@ -1962,53 +1962,28 @@ Qed.
...
+case: x x0=>// [x x0 | _].
+   case: y y0=>// [y y0 | _].
+      case: z z0=>// [z z0 | _].
+         by rewrite /mule/mule_subdef mulrA.
+      repeat rewrite [_* +oo]muleC gt0_mulye//.
+      by apply mule_gt0.
+   by rewrite gt0_mulye// [_* +oo]muleC gt0_mulye// gt0_mulye.
+by rewrite !gt0_mulye//; apply mule_gt0.
```
Comment (proux01) [inline theories/constructive_ereal.v:1986]: I'd rather limit the indentation:
```suggestion
case: x x0 => [x x0 | | //]; last by rewrite !gt0_mulye ?mule_gt0.
case: y y0 => [y y0 | | //]; last by rewrite gt0_mulye // muleC !gt0_mulye.
case: z z0 => [z z0 | | //]; last by rewrite !gt0_muley ?mule_gt0.
by rewrite /mule/= mulrA.
```
requires to add (after `gt0_mulye`)
```Coq
Lemma gt0_muley x : (0 < x -> x * +oo = +oo)%E.                                                                                                       
Proof. by move=> ?; rewrite muleC gt0_mulye. Qed    
```
and while at it
```Coq
Lemma lt0_muley x : (x < 0 -> x * +oo = -oo)%E.
Proof. by move=> ?; rewrite muleC lt0_mulye. Qed.
```
```Coq
Lemma gt0_muleNy x : (0 < x -> x * -oo = -oo)%E.
Proof. by move=> ?; rewrite muleC gt0_mulNye. Qed.
```
```Coq
Lemma lt0_muleNy x : (x < 0 -> x * -oo = +oo)%E.
Proof. by move=> ?; rewrite muleC lt0_mulNye. Qed.
```
(each after the corresponding lemma)

**Review by proux01 — COMMENTED** [review]
Impressive! Just a few nitpicking comments (this will also need changelog entries before merging).

File: theories/constructive_ereal.v [hunk 6]
```diff
@@ -1962,53 +1965,20 @@ Qed.
...
+wlog: x y z x0 / 0 < y => [h | y0].
+  have [y0 | | ->] := ltgtP y 0; [ | exact: h | by rewrite !(mul0e, mule0)].
+  by apply: oppe_inj; rewrite -muleN -2!mulNe -muleN h ?oppe_gt0.
+wlog: x y z x0 y0 / 0 < z => [h | z0].
+  have [z0 | | ->] := ltgtP z 0; [ | exact: h | by rewrite !mule0].
+  by apply: oppe_inj; rewrite -!muleN h ?oppe_gt0.
+case: x x0 => [x x0 | | //]; last by rewrite !gt0_mulye ?mule_gt0.
+case: y y0 => [y y0 | | //]; last by rewrite gt0_mulye // muleC !gt0_mulye.
+case: z z0 => [z z0 | | //]; last by rewrite !gt0_muley ?mule_gt0.
+by rewrite /mule/= mulrA.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:1981]: Nitpicking too...
```suggestion
move=> x y z.
wlog x0 : x y z / 0 < x => [hwlog|].
  have [x0| |->] := ltgtP x 0; [ |exact: hwlog|by rewrite !mul0e].
  by apply: oppe_inj; rewrite -!mulNe hwlog ?oppe_gt0.
wlog y0 : x y z x0 / 0 < y => [hwlog|].
  have [y0| |->] := ltgtP y 0; [ |exact: hwlog|by rewrite !(mul0e, mule0)].
  by apply: oppe_inj; rewrite -muleN -2!mulNe -muleN hwlog ?oppe_gt0.
wlog z0 : x y z x0 y0 / 0 < z => [hwlog|].
  have [z0| |->] := ltgtP z 0; [ |exact: hwlog|by rewrite !mule0].
  by apply: oppe_inj; rewrite -!muleN hwlog ?oppe_gt0.
case: x x0 => [x x0| |//]; last by rewrite !gt0_mulye ?mule_gt0.
case: y y0 => [y y0| |//]; last by rewrite gt0_mulye // muleC !gt0_mulye.
case: z z0 => [z z0| |//]; last by rewrite !gt0_muley ?mule_gt0.
by rewrite /mule/= mulrA.
Qed.
```

**Review by proux01 — APPROVED** [review]
Squashed, I'll merge tomorrow if there is no more comment.
